US07745663B2
The title compound was obtained by a procedure similar to that in Step C of Example 9. Namely, (E)-3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-N-(2-hydroxy-ethoxy)-5-(methoxyimino-methyl)-benzamide was reduced with borane-pyridine complex in the presence of dichloroacetic acid to give 3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-N-(2-hydroxy-ethoxy)-5-(methoxyamino-methyl)-benzamide (28.14 mg, 81%).

reactant | (E)-3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-N-(2-hydroxy-ethoxy)-5-(methoxyimino-methyl)-benzamide | FC=1C(=C(C(=O)NOCCO)C=C(C1F)/C=N/OC)NC1=C(C=C(C=C1)I)F | C17H15F3IN3O4
reactant | dichloroacetic acid | ClC(C(=O)O)Cl | C2H2Cl2O2
product | 3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-N-(2-hydroxy-ethoxy)-5-(methoxyamino-methyl)-benzamide | 28.14 mg, 81% | FC=1C(=C(C(=O)NOCCO)C=C(C1F)CNOC)NC1=C(C=C(C=C1)I)F | C17H17F3IN3O4
